US08895603B2
Step C: tert-Butyl [(1S,2S)-1-(2,5-difluorophenyl)-1-hydroxypent-4-yn-2-yl]carbamate
To a stirred vessel under nitrogen sweep was charged tert-butyl [1-(2,5-difluorophenyl)-1-oxopent-4-yn-2-yl]carbamate (35.0 kg, 113 mol), 1,4-diazabicyclo[2.2.2]octane (38.0 kg, 339 mol), and THF (465 kg). After dissolution, chloro{[(1R,2R)-(−)-2-amino-1,2-diphenylethyl](pentafluorophenylsulfonyl)amido}-(p-cymene) ruthenium (II) (410 g, 576 mmol) was added. The vessel was vacuum sparged and back-filled with nitrogen three times. Then, formic acid (26.7 kg, 580 mol) was added and the reaction heated to 45° C. overnight.

reactant | tert-butyl [1-(2,5-difluorophenyl)-1-oxopent-4-yn-2-yl]carbamate | 113 mol, 35.0 kg | FC1=C(C=C(C=C1)F)C(C(CC#C)NC(OC(C)(C)C)=O)=O | C16H17F2NO3
reactant | 1,4-diazabicyclo[2.2.2]octane | 339 mol, 38.0 kg | N12CCN(CC1)CC2 | C6H12N2
reactant | formic acid | 580 mol, 26.7 kg | C(=O)O | CH2O2
solvent | THF | 465 kg | C1CCOC1 | C4H8O
product | tert-Butyl [(1S,2S)-1-(2,5-difluorophenyl)-1-hydroxypent-4-yn-2-yl]carbamate | FC1=C(C=C(C=C1)F)[C@@H]([C@H](CC#C)NC(OC(C)(C)C)=O)O | C16H19F2NO3
